US07851071B2
Under the atmosphere of nitrogen gas, 15.0 g (109 mmol) of 2-nitroaniline, 17.2 g (109 mmol) of 2-bromopyridine, 2.06 g (10.9 mmol) of copper iodide and 30 g (218 mmol) of potassium carbonate were stirred with heating at the temperature of 160° C. for 9 hours. The reacted solution was cooled down to room temperature, diluted with ethyl acetate and filtered. After concentrating the filtrate, it was refined with silicagel column chromatography, and 6.30 g of 2-nitro-N-pyridyl aniline was obtained (yield: 27%).

reactant | 2-nitroaniline | 109 mmol, 15.0 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 2-bromopyridine | 109 mmol, 17.2 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 218 mmol, 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 10.9 mmol, 2.06 g | [Cu](I)I
product | 2-nitro-N-pyridyl aniline | 6.30 g, yield: 27% | [N+](=O)([O-])C1=C(NC2=NC=CC=C2)C=CC=C1 | C11H9N3O2
